US05760035
A mixture of 4-(2-dimethylaminoethyl)piperidine dihydrochloride (7.0 g), 2-bromoethyl 3-chlorophenyl ether (7.2 g), triethylamine (12.75 ml) and DMF (50 ml) was heated on a steam bath for 16 hours then worked up as described in Example 16 to give 1-[2-(3-chlorophenoxy)ethyl]-4-(2-dimethylaminoethyl)piperidine dihydrochloride, m.p. 260°-264° C.

reactant | 4-(2-dimethylaminoethyl)piperidine dihydrochloride | 7.0 g | Cl.Cl.CN(CCC1CCNCC1)C
reactant | 2-bromoethyl 3-chlorophenyl ether | 7.2 g | ClC=1C=C(C=CC1)OCCBr | C8H8BrClO
reactant | triethylamine | 12.75 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-[2-(3-chlorophenoxy)ethyl]-4-(2-dimethylaminoethyl)piperidine dihydrochloride | Cl.Cl.ClC=1C=C(OCCN2CCC(CC2)CCN(C)C)C=CC1 | InChI=1S/C17H27ClN2O.2ClH/c1-19(2)9-6-15-7-10-20(11-8-15)12-13-21-17-5-3-4-16(18)14-17;;/h3-5,14-15H,6-13H2,1-2H3;2*1H
